US03987174
A solution of 3-hydroxy-2-phenyl-isoindolin-1-one (6.75 g.) in anhydrous dimethylformamide (20 cc.) is added to a suspension of sodium hydride (50% dispersion in mineral oil) (1.48 g.) in anhydrous dimethylformamide (20 cc.). When the evolution of gas has ceased, 2,3-epoxy-1-isopropylamino-propane (3.8 g.) is added whilst keeping the temperature at about 5° C. After the end of the addition, stirring is continued for a further 24 hours at a temperature of about 20° C. and then the reaction mixture is poured into ice-water (250 cc.). The insoluble oily product is extracted with methylene chloride (3 × 100 cc.). The solution obtained is dried over sodium sulphate and then concentrated to dryness under reduced pressure. The oily residue is taken up in diethyl ether (50 cc.) and the insoluble product is filtered off and then washed with diethyl ether (30 cc.). The filtrate is then extracted with 0.5N hydrochloric acid (60 cc.). The acid solution obtained is washed with diethyl ether (20 cc.) and then rendered alkaline by the addition of 1N sodium hydroxide solution (30 cc.). The insoluble oily product is extracted with diethyl ether (2 × 50 cc.) and the solution obtained is dried over sodium sulphate and then concentrated to dryness under reduced pressure. The oily product obtained is dissolved in a mixture of diethyl ether and di-isopropyl ether (1/1 by volume; 20 cc.), and the product which crystallises is filtered off and then washed with a mixture of diethyl ether and di-isopropyl ether (1/1 by volume; 5 cc.). After drying, 3-(2-hydroxy-3-isopropylamino-propoxy)-2-phenyl-isoindolin-1-one (1.35 g.), melting at 92° C., is obtained.

reactant | 3-hydroxy-2-phenyl-isoindolin-1-one | 6.75 g | OC1N(C(C2=CC=CC=C12)=O)C1=CC=CC=C1 | C14H11NO2
reactant | sodium hydride | 1.48 g | [H-].[Na+]
reactant | 2,3-epoxy-1-isopropylamino-propane | 3.8 g | O1C(CNC(C)C)C1 | C6H13NO
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | di-isopropyl ether | 20 cc | C(C)(C)OC(C)C | C6H14O
product | 3-(2-hydroxy-3-isopropylamino-propoxy)-2-phenyl-isoindolin-1-one | 1.35 g | OC(COC1N(C(C2=CC=CC=C12)=O)C1=CC=CC=C1)CNC(C)C | C20H24N2O3
